US05273999
Preparation of (E)-5-[(3-Carboxyphenyl)carbonyl]-2-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]-1-hexenyl]benzenepropanoic Acid
Starting with 0.242 g (1.17 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one and 0.604 g (1.17 mmol) of (E)-2-(6-bromo-1-hexenyl)-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester, the title compound was obtained (97 mg; 15.8% overall yield) as a white solid, mp 105°-109° C. (recrystallized from hexane-ethyl acetate), using the procedure of example 22.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 1.17 mmol, 0.242 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | (E)-2-(6-bromo-1-hexenyl)-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester | 1.17 mmol, 0.604 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)\C=C\CCCCBr)=O | C27H31BrO5
product | (E)-5-[(3-Carboxyphenyl)carbonyl]-2-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]-1-hexenyl]benzenepropanoic Acid | C(=O)(O)C=1C=C(C=CC1)C(=O)C=1C=CC(=C(C1)CCC(=O)O)\C=C\CCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C35H36O8
